US05340489
Preparation of Phenyl Benzenesulfonate
All apparatus is rigorously dried and flushed with nitrogen before use. The reaction is performed in a 25 ml flask equipped with a magnetic stirring bar and a calcium chloride drying tube. The flask is charged with benzenesulfonyl chloride (11.60 g, 65.7 mmol), phenol (5.60 g, 59.6 mmol), and 4-dimethylaminopyridine (0.36 g, 2.98 mmol), and anhydrous pyridine (20 ml). The reaction mixture is stirred and heated at reflux, and the progress of the reaction is monitored by high performance liquid chromatography. At the conclusion of the reaction, the mixture is cooled and quenched with water (25 ml), extracted with ether (50 ml), and washed successively with 50 ml portions of water, 5% sodium hydroxide (2×), water, and brine. The organic phase is then dried over magnesium sulphate, filtered, and concentrated to yield 13.1 g (94%) of the crude product as a yellow oil. This product is further purified by distillation on a Kugelrohr apparatus under vacuum to give 11.3 g (81%) of the product as a colorless oil. The oxidative stability of the product is determined by pressure differential scanning calorimetry (PDSC). The results are reported below in Table 1.

reactant | benzenesulfonyl chloride | 65.7 mmol, 11.60 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | phenol | 59.6 mmol, 5.60 g | C1(=CC=CC=C1)O | C6H6O
catalyst | 4-dimethylaminopyridine | 2.98 mmol, 0.36 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | Phenyl Benzenesulfonate | 11.3 g, 81% | C1(=CC=CC=C1)S(=O)(=O)OC1=CC=CC=C1 | C12H10O3S
